US04024272
A mixture of 73.5 g of 2-hydroxy-4,6-dimethoxyacetophenone, 260 g of dimethylcyanoacetic acid ethyl ester and 375 ml of absolute dioxane is introduced into a suspension of 28.6 g of NaH in 7.3 g of dimethylcyanoacetic acid ethyl ester at 0°-10°, while stirring. The mixture is heated for 1 hour at 80°, cooled and poured into acetic acid and the resulting solution is stirred into ice water to give 2,2-dimethyl-3,5-dioxo-5-(2-hydroxy-4,6-dimethoxyphenyl)-pentanonitrile; m.p. 112°-113°.

reactant | 2-hydroxy-4,6-dimethoxyacetophenone | 73.5 g | CC(=O)C1=C(C=C(C=C1OC)OC)O | C10H12O4
reactant | dioxane | 375 ml | O1CCOCC1 | C4H8O2
reactant | NaH | 28.6 g | [H-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | dimethylcyanoacetic acid ethyl ester | 7.3 g | C(C)OC(C(C#N)(C)C)=O | C7H11NO2
reactant | dimethylcyanoacetic acid ethyl ester | 260 g | C(C)OC(C(C#N)(C)C)=O | C7H11NO2
product | 2,2-dimethyl-3,5-dioxo-5-(2-hydroxy-4,6-dimethoxyphenyl)-pentanonitrile | CC(C#N)(C(CC(C1=C(C=C(C=C1OC)OC)O)=O)=O)C | C15H17NO5
